US06906084B2
(iii) 2-Bromo-N-(4-chloro-phenyl)-acetamide.
To a solution of 5 g 4-Chloro-phenylamine and 1.5 ml pyridine in 30 ml toluene, 8 g bromo-acetyl bromide dissolved in 10 ml toluene was added dropwise under ice cooling. After 2 h the precipitate was isolated by filtration and recrystallized from toluene to yield a white solid.

reactant | 4-Chloro-phenylamine | 5 g | ClC1=CC=C(C=C1)N | C6H6ClN
reactant | pyridine | 1.5 ml | N1=CC=CC=C1 | C5H5N
reactant | bromo-acetyl bromide | 8 g | BrCC(=O)Br | C2H2Br2O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Bromo-N-(4-chloro-phenyl)-acetamide | BrCC(=O)NC1=CC=C(C=C1)Cl | C8H7BrClNO
